US04110447
A solution of 2.22 g of 3-p-biphenylyl-2-buten-1-al (obtainable by reacting 4-acetylbiphenyl with 2,2-diethoxy-ethylmagnesium bromide and subsequent treatment with p-toluenesulfonic acid) and 0.6 g of isopropylamine in 25 ml of methanol is heated at 200° for 5 hours in a tube. After cooling, 0.5 g of Raney nickel, moist with methanol, is added and the resulting Schiff's base is hydrogenated for one hour at 100 atms. and 80°. The mixture is cooled and filtered and 1-isopropylamino-3-p-biphenylyl-butane is obtained.

reactant | 3-p-biphenylyl-2-buten-1-al | 2.22 g | C1(=C(C=CC=C1)C(=CC=O)C)C1=CC=CC=C1 | C16H14O
reactant | isopropylamine | 0.6 g | C(C)(C)N | C3H9N
solvent | methanol | 25 ml | CO | CH4O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 1-isopropylamino-3-p-biphenylyl-butane | C(C)(C)NCCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H25N
